US05278316
Tricyclo[3.3.1.13,7 ]dec-2-yl (±)-[2-[[2-(benzo[b]thien-3-yl)ethyl]amino]-1-(1H-indol-3-ylmethyl)-1-methyl-2-oxoethyl]carbamate
A solution of 0.50 g (1.26 mmol) of 2-adamantyloxycarbonyl-α-methyl-DL-tryptophan and 0.18 g (1.33 mmol) of 1-hydroxybenzotriazole hydrate in 8 mL of anhydrous DMF (under a N2 atmosphere) was treated in one portion with 0.27 g (1.41 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride. The mixture was stirred at room temperature for 2 hours, treated with 0.30 g (1.40 mmol) of 3-[2-aminoethyl)benzo[b]thiophene hydrochloride plus 0.25 mL (0.18 g, 1.79 mmol) of Et3N, and stirred for an additional 18 hours. The reaction mixture was partitioned between 100 mL of EtOAc and 150 mL of H2O. The layers were separated and the aqueous layer extracted with fresh EtOAc (3×75 mL). The combined organic layers were washed with 5% aqueous citric acid (3×150 mL), brine (1×150 mL), 5% aqueous NaHCO3 (3×150 mL), and brine again. The organic layer was dried (Na2SO4) and evaporated (vacuum) to an off-white foam. The residue was chromatographed (230-400 mesh SiO2 in a 21×300 mm column, eluted with 2% MeOH in CH2Cl2) to yield the purified product as a white foam, 0.40 g (57%); 1H NMR (CDCl3) δ 1.47-1.92 (17H, m), 2.92 (2H, t, J 7 Hz), 3.25 (1H, d, J 15 Hz), 3.46-3.57 (3H, m), 4.79 (1H, br s), 5.14 (1H, br s), 6.27 (1H, m), 7.02 (2H, m), 7.11-7.86 (8H, m), 8.10 (1H, br s).

reactant | 2-adamantyloxycarbonyl-α-methyl-DL-tryptophan | 1.26 mmol, 0.50 g | C12C(C3CC(CC(C1)C3)C2)OC(=O)NC(CC2=CNC3=CC=CC=C23)(C(=O)O)C | C23H28N2O4
reactant | 1-hydroxybenzotriazole hydrate | 1.33 mmol, 0.18 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.41 mmol, 0.27 g | Cl.CN(CCCN=C=NCC)C
reactant | 3-[2-aminoethyl)benzo[b]thiophene hydrochloride | 1.40 mmol, 0.30 g | Cl.NCCC=1C2=C(SC1)C=CC=C2
reactant | Et3N | 1.79 mmol, 0.25 mL, 0.18 g | CCN(CC)CC | C6H15N
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | Tricyclo[3.3.1.13,7 ]dec-2-yl (±)-[2-[[2-(benzo[b]thien-3-yl)ethyl]amino]-1-(1H-indol-3-ylmethyl)-1-methyl-2-oxoethyl]carbamate | S1C2=C(C(=C1)CCNC(C(C)(CC1=CNC3=CC=CC=C13)NC(OC1C3CC4CC(CC1C4)C3)=O)=O)C=CC=C2 | C33H37N3O3S
